US08609688B2
4-(3-Bromophenyl)-N,N-dimethylmorpholine-2-carboxamide
A mixture of 1,3-dibromobenzene (387 μL, 3.20 mmol), N,N-dimethylmorpholine-2-carboxamide (506 mg, 3.20 mmol), Pd2(dba)3 (73.3 mg, 0.0800 mmol), rac-BINAP (154 mg, 0.240 mmol) and NaOtBu (369 mg, 3.84 mmol) in toluene (8 mL) was heated at 80° C. for 5 hours under nitrogen. After cooling to room temperature, the mixture was diluted with DCM and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (EtOAc/hexane=95:5→90:10→80:20→67:33→50:50) to afford desired product (424 mg, 42.3%) as orange oil.

reactant | 1,3-dibromobenzene | 3.20 mmol, 387 μL | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | N,N-dimethylmorpholine-2-carboxamide | 3.20 mmol, 506 mg | CN(C(=O)C1CNCCO1)C | C7H14N2O2
reactant | rac-BINAP | 0.240 mmol, 154 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 3.84 mmol, 369 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.0800 mmol, 73.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(3-Bromophenyl)-N,N-dimethylmorpholine-2-carboxamide | 424 mg, 42.3% | BrC=1C=C(C=CC1)N1CC(OCC1)C(=O)N(C)C | C13H17BrN2O2
